US07009056B2
1-Benzyl-3-[3-aminomethyl-1,2,4-oxadiazol-5-yl]indazole
A solution of aminoacetonitrile hydrochloride (0.5 g, 5.4 mmol) and sodium (0.124 g, 5.4 mmol) in MeOH (15 mL) was added to a solution of hydroxylamine hydrochloride (0.37 g, 5.4 mmol) and sodium (0.124 g, 5.4 mmol) in MeOH. The reaction mixture was refluxed for 4 h then filtered and concentrated under reduced pressure. The crude material was taken up in dry THF (30 mL), sodium hydride (0.114 g, 60%, 2.86 mmol) was added and the reaction mixture heated at 60° C. 1-Benzylindazole-3-carboxylic acid methyl ester (0.25 g, 0.938 mmol) was added and the reaction mixture was heated at reflux for 4 h. The THF was removed under reduced pressure and the residue partitioned between chloroform (100 mL) and H2O (100 mL). The chloroform layer was separated and the aqueous layer was further extracted with 2×100 mL of chloroform. The combined extracts were dried (MgSO4) and concentrated under reduced pressure. The crude compound was purified by flash chromatography using chloroform/MeOH (95:5) to afford the title compound as a white solid (0.264 g, 92%). Mp 118–119° C. 1H NMR (300 MHz, CDCl3) ppm 1.68 (s, 2H), 4.12 (s, 2H), 5.77 (s, 2H), 7.30–7.47 (m, 8H), 8.32–8.35 (m, 1H). MS(EI) m/z 305 [M+]. Anal. Calcd. for C17H15N5O: C, 66.87; H, 4.95; N, 22.94. Found: C, 67.00; H, 4.82; N, 22.97.

reactant | aminoacetonitrile hydrochloride | 5.4 mmol, 0.5 g | Cl.NCC#N
reactant | sodium | 5.4 mmol, 0.124 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 5.4 mmol, 0.37 g | Cl.NO
reactant | sodium | 5.4 mmol, 0.124 g | [Na] | Na
reactant | sodium hydride | 2.86 mmol, 0.114 g | [H-].[Na+]
reactant | 1-Benzylindazole-3-carboxylic acid methyl ester | 0.938 mmol, 0.25 g | COC(=O)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C16H14N2O2
solvent | MeOH | 15 mL | CO | CH4O
product | 1-Benzyl-3-[3-aminomethyl-1,2,4-oxadiazol-5-yl]indazole | 0.264 g, 92% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=NC(=NO1)CN | C17H15N5O
